US05939439
Step 3: 4-(4-cyano-phenyl)-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridine-5-carboxylic acid tert-butyl ester
4-(4-Bromo-phenyl)-6,7-dihydro-4H-imidazo[4,5-c]pyridine-1,5-dicarboxylic acid di-tert-butyl ester (0.55 g, 1.14 mmol) and Zn(CN)2 (0.13 g, 1.14 mmol) were stirred in anh. DMF (10 mL) and degassed with Ar for 15 min. Tetrakis(triphenylphosphine)-palladium(0) was added to the solution and stirred at 80° C. under Ar overnight. The solution was concentrated in vacuo, partitioned between EtOAc and sat. NaHCO3 soln, washed with H2O, brine, and dried over MgSO4. Filtration, concentration, and silica gel chromatography (0-2% MeOH/CH2Cl2 with NH4OH) gave the title compound.

reactant | 4-(4-Bromo-phenyl)-6,7-dihydro-4H-imidazo[4,5-c]pyridine-1,5-dicarboxylic acid di-tert-butyl ester | 1.14 mmol, 0.55 g | C(C)(C)(C)OC(=O)N1C=NC=2C(N(CCC21)C(=O)OC(C)(C)C)C2=CC=C(C=C2)Br | C22H28BrN3O4
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 1.14 mmol, 0.13 g | [C-]#N.[C-]#N.[Zn+2]
product | 4-(4-cyano-phenyl)-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridine-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(C2=C(CC1)NC=N2)C2=CC=C(C=C2)C#N | C18H20N4O2
